US08026356B2
Preparation of 2′,3′-didehydro-3′-deoxythymidine (Stavudine)
Stavudine DMPU solvate (25 g, 0.060 mole) is dissolved in isopropanol (250 ml), and treated with activated carbon anti-eno crowns (2.5 g) at reflux temperature. Reaction mass is filtered while hot and washed with hot isopropanol (25 ml). The combined filtrate and wash are concentrated to 100 ml and allowed the mass to cool to room temperature slowly. Cooled the mass to 0-5° C. and the precipitated product is filtered. washed the product with chilled isopropanol (10 ml) and air dried to give 13.2 g (83%) of the title compound which purity greater than 99%. XRD data resembles crystalline form-I

reactant | Stavudine DMPU | 0.060 mole, 25 g | CC1=CN(C(=O)NC1=O)[C@H]2C=C[C@H](O2)CO.CN1CCCN(C1=O)C
solvent | isopropanol | 250 ml | C(C)(C)O | C3H8O
product | 2′,3′-didehydro-3′-deoxythymidine | 13.2 g, 83% | [C@@H]1(C=C[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H12N2O4
